US04988681
Under a nitrogen atmosphere, 7.3 ml (11 millimoles) of 1.5 M butyllithium-hexane was added dropwise to a solution of 1.5 ml (11 millimoles) of diisopropylamine in 20 ml of dry tetrahydrofuran. The mixture was cooled to -78° C. in a dry ice-methanol bath, and 1.50 g (10 millimoles) of ethyl isobutylphosphinate and then 2.46 g (10.4 millimoles) of ethyl 2-diethoxyphosphinoylpropenoate were added. The mixture was stirred at 0° C. for 30 minutes. The mixture was cooled to -30 ° C., and 1.1 ml (11 millimoles) of benzaldehyde was added. The mixture was stirred at -30° C. for 3 hours, and ovenight at room temperature. A saturated aqueous solution of ammonium chloride (50 ml) was added to the reaction mixture, and the mixture was extracted three times with 50 ml of ethyl acetate each time. The combined organic layers were washed with 20 ml of a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by medium-pressure liquid chromatography [Lobar column (a product of E. Merck & Co.), size C, Lichroprep SI 60, ethyl acetate]. The first fraction was evaporated to give 1.00 g (yield 30%) of ethyl (Z)-2-(ethoxyisobutylphosphinoyl)methyl-3-phenylpropenoate as a colorless oil.

reactant | butyllithium hexane | 11 millimoles, 1.5 M, 7.3 ml | C(CCC)[Li].CCCCCC
reactant | diisopropylamine | 11 millimoles, 1.5 ml | C(C)(C)NC(C)C | C6H15N
reactant | ethyl isobutylphosphinate | 10 millimoles, 1.50 g | C(C(C)C)P(OCC)=O | C6H15O2P
reactant | ethyl 2-diethoxyphosphinoylpropenoate | 10.4 millimoles, 2.46 g | C(C)OP(=O)(C(C(=O)OCC)=C)OCC | C9H17O5P
reactant | benzaldehyde | 11 millimoles, 1.1 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | ethyl (Z)-2-(ethoxyisobutylphosphinoyl)methyl-3-phenylpropenoate | 1.00 g, yield 30% | C(C)OP(=O)(CC(C)C)C\C(\C(=O)OCC)=C/C1=CC=CC=C1 | C18H27O4P
